US08022062B2
7-Chloro-6-[2-(2,2-dimethylpropionyloxy)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
To a stirred solution of 3-tert-butoxycarbonyl-7-chloro-6-(2-hydroxyethylthio)-2,3,4,5-tetrahydrobenzo[d]azepine (85 mg, 0.238 mmol) in DCM (3 ml) at 0° C., add triethylamine (331 μl, 2.381 mmol) followed by trimethylacetyl chloride (147 μl, 1.190 mmol). Continue stirring for 15 min, dilute with water, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Deprotection by the General Procedure 1-5, basic workup, and by the General Procedure 2-2 give the title compound. MS (ES+) m/z 342 (M+H).

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(2-hydroxyethylthio)-2,3,4,5-tetrahydrobenzo[d]azepine | 0.238 mmol, 85 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCCO | C17H24ClNO3S
reactant | triethylamine | 2.381 mmol, 331 μl | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 1.190 mmol, 147 μl | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 7-Chloro-6-[2-(2,2-dimethylpropionyloxy)-ethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCCOC(C(C)(C)C)=O | InChI=1S/C17H24ClNO2S.ClH/c1-17(2,3)16(20)21-10-11-22-15-13-7-9-19-8-6-12(13)4-5-14(15)18;/h4-5,19H,6-11H2,1-3H3;1H
